US08981085B2
SnCl2 dihydrate (0.85 g, 3.77 mmol) at a temperature of about 0° C. to about 5° C. was added to 4-chloro-3-nitro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridine (0.20 g, 0.75 mmol) in 6M HCl (5 mL). The mixture was stirred at room temperature for 2 hours, and was then neutralized to a pH of about 8 with a 6N NaOH solution. The mixture was extracted with CHCl3:IPA (3×30 mL; 3:1) and dried over sodium sulfate. After removal of the solvent, 4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-amine (0.16 g, 89% yield) was isolated as a solid.

reactant | 4-chloro-3-nitro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridine | 0.75 mmol, 0.20 g | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2[N+](=O)[O-] | C8H3ClF3N3O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 6M, 5 mL | Cl | ClH
product | 4-chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-amine | 0.16 g, 89% yield | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2N | C8H5ClF3N3
